US06670373B1
2-Fluoro-4-bromobenzaldehyde Oxime
In a fashion similar to that for preparation 13, 4-bromo-2-fluorobenzaldehyde (5.00 g, 24.6 mmol), hydroxylamine hydrochloride (2.05 g, 29.6 mmol), NaOH (4.92 g, 61.5 mmol; in a 50% by weight solution), ethanol (15 ml), water (15 ml), and ice (30 g) gave the title compound (4.12 g, 77%) which was used without purification.

reactant | 4-bromo-2-fluorobenzaldehyde | 24.6 mmol, 5.00 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | hydroxylamine hydrochloride | 29.6 mmol, 2.05 g | Cl.NO
reactant | NaOH | [OH-].[Na+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 2-Fluoro-4-bromobenzaldehyde Oxime | 4.12 g, 77% | FC1=C(C=NO)C=CC(=C1)Br | C7H5BrFNO
